US08895586B2
To the solution of 2-(3,5-bis(trifluoromethyl)phenyl)-N-(6-chloro-4-(o-tolyl)pyridin-3-yl)-N,2-dimethylpropanamide (5.14 g, 10 mmol) in 60 mL of DCM was added m-CPBA (6.92 g, 40 mmol) at 0° C. under N2 atmosphere. Then the solution was stirred overnight at room temperature. 1 N aq. NaOH solution was added to wash twice for removing the excess m-CPBA. and a side product. The organic phase was washed by brine, dried over Na2SO4, filtered and concentrated to afford 5.11 g of crude 5-(2-(3,5-bis(trifluoromethyl)phenyl-N,2-dimethylpropanamido)-2-chloro-4(o-tolyl)pyridine 1-oxide as a white solid (Yield: 96.4%).

reactant | 2-(3,5-bis(trifluoromethyl)phenyl)-N-(6-chloro-4-(o-tolyl)pyridin-3-yl)-N,2-dimethylpropanamide | 10 mmol, 5.14 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)Cl)(C)C)(F)F | C25H21ClF6N2O
reactant | m-CPBA | 40 mmol, 6.92 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,5-bis(trifluoromethyl)phenyl-N,2-dimethylpropanamido)-2-chloro-4(o-tolyl)pyridine 1-oxide | Yield: 96.4% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C1([NH+](C=CC(=C1)C1=C(C=CC=C1)C)[O-])Cl)(C)C)(F)F | C25H23ClF6N2O2
